US04576954
Potassium bicarbonate (6 g) and a solution of N-methylphenethylamine (8 g) in methanol (150 cc) are added to a solution of 4,5-dichloro-1,2-dithiol-3-one (11.2 g) in methanol (350 cc). The reaction mixture is stirred at a temperature of about 20° C. for 20 hours, filtered and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The residue is dissolved in methylene chloride (210 cc); the solution obtained is washed 3 times with distilled water (60 cc in total), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The crystals obtained are recrystallized from a mixture of isopropyl ether and ethyl acetate (75/25 by volume); 4-chloro-5-[N-methyl-N-(2-phenylethyl)-amino]-1,2-dithiol-3-one (5.3 g) is thus obtained in the form of yellow crystals of m.p. 75° C.

reactant | Potassium bicarbonate | 6 g | C([O-])(O)=O.[K+]
reactant | N-methylphenethylamine | 8 g | CNCCC1=CC=CC=C1 | C9H13N
reactant | 4,5-dichloro-1,2-dithiol-3-one | 11.2 g | ClC=1C(SSC1Cl)=O | C3Cl2OS2
solvent | methanol | 150 cc | CO | CH4O
solvent | methanol | 350 cc | CO | CH4O
product | 4-chloro-5-[N-methyl-N-(2-phenylethyl)-amino]-1,2-dithiol-3-one | 5.3 g | ClC=1C(SSC1N(CCC1=CC=CC=C1)C)=O | C12H12ClNOS2
